US04859684
(a-3) A mixture of 10 parts of 2-methyl-1H-benzimidazole-4-methanol, 10 parts of manganese(IV) oxide and 180 parts of ethyl acetate was stirred for 19 hours at room temperature. The reaction mixture was filtered over diatomaceous earth and washed with a mixture of ethyl acetate and methanol (80:20 by volume). The filtrate was evaporated and the residue was crystallized from 2-butanone. The product was filtered off and dried, yielding 3.5 parts (35.2%) of 2-methyl-1H-benzimidazole-4-carboxaldehyde (int. 67).

reactant | 2-methyl-1H-benzimidazole-4-methanol | CC1=NC2=C(N1)C=CC=C2CO | C9H10N2O
catalyst | manganese(IV) oxide | [O-2].[Mn+4].[O-2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-1H-benzimidazole-4-carboxaldehyde | 35.2% | CC1=NC2=C(N1)C=CC=C2C=O | C9H8N2O
